US08003800B2
At −78° C., tert.-butyllithium (20 mL, 1.5 M in pentane) is slowly added to a solution of 4-isobutyl-5-methyl-thiophene-2-carboxylic acid (2.0 g, 10.1 mmol) in THF (100 mL). The mixture turns dark. The mixture is stirred at −78° C. for 15 min, then a solution of iodoethane (6.18 g, 39.6 mmol) in THF (10 mL) is added. The mixture is stirred for 1 h at −78° C. Further iodoethane (6.18 g, 39.6 mmol) is added and the mixture allowed to warm to rt over a period of 15 h. The reaction is quenched by adding 1 M aq. NaH2PO4 (20 mL) and 1 N aq. HCl (50 mL) and the mixture is extracted with chloroform (1×100 mL, 3×30 mL). The combined organic extracts are dried over MgSO4, filtered and evaporated. The crude product is purified by MPLC on silica gel eluting with a gradient of EA in hexane to give 3-ethyl-4-isobutyl-5-methyl-thiophene-2-carboxylic acid (1.29 g) as a yellow solid; LC-MS: tR=1.00 min, [M+1+CH3CN]=268.29; 1H NMR (CDCl3): δ 2.92 (q, J=7.0 Hz, 2H), 2.40 (s, 3H), 2.37 (d, J=7.6 Hz, 2H), 1.80 (m, J=7.0 Hz, 1H), 1.15 (t, J=7.6 Hz, 3H), 0.92 (d, J=7.0 Hz, 6H).

reactant | tert.-butyllithium | 1.5 M, 20 mL | C(C)(C)(C)[Li]
reactant | 4-isobutyl-5-methyl-thiophene-2-carboxylic acid | 10.1 mmol, 2.0 g | C(C(C)C)C=1C=C(SC1C)C(=O)O | C10H14O2S
reactant | iodoethane | 39.6 mmol, 6.18 g | ICC | C2H5I
reactant | iodoethane | 39.6 mmol, 6.18 g | ICC | C2H5I
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 3-ethyl-4-isobutyl-5-methyl-thiophene-2-carboxylic acid | 1.29 g | C(C)C1=C(SC(=C1CC(C)C)C)C(=O)O | C12H18O2S
